US08859894B2
Under nitrogen atmosphere, nickel chloride hexahydrate (4.61 g, 19.4 mmol), triphenylphosphine (20.2 g, 76.9 mmol) and N,N-dimethylformamide (90 mL) were placed into a 300 mL three-necked flask, and then zinc powder (1.26 g, 19.2 mmol) was added. The mixture was stirred for 75 minutes at 65° C. And then, 1-bromoisoquinoline (4.00 g, 19.2 mmol) was added, and the mixture was stirred for 5 hours at 140° C. After the completion of the reaction, the zinc powder was filtrated off, and the filtrate was concentrated under reduced pressure. And then, dichloromethane (50 mL) and 7% aqueous ammonia (120 mL) were added to the resultant concentrate, and the mixture was stirred for 30 minutes at room temperature. And then, nickel was removed from the mixture with dichloromethane/7% aqueous ammonia, and the desired product was transferred into an aqueous phase with diethyl ether/9 mol/l hydrochloric acid to remove triphenylphosphine. And then, the solution was neutralized with 5 mol/l aqueous sodium hydroxide solution, and the desired product was extracted with dichloromethane. After concentration under reduced pressure, the product was recrystallized with methanol, and 1,1′-biisoquinoline (1,1′-biq) (1.52 g) was obtained.

reactant | triphenylphosphine | 76.9 mmol, 20.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-bromoisoquinoline | 19.2 mmol, 4.00 g | BrC1=NC=CC2=CC=CC=C12 | C9H6BrN
catalyst | nickel chloride hexahydrate | 19.4 mmol, 4.61 g | O.O.O.O.O.O.[Ni](Cl)Cl
catalyst | zinc | 19.2 mmol, 1.26 g | [Zn] | Zn
solvent | N,N-dimethylformamide | 90 mL | CN(C=O)C | C3H7NO
product | 1,1′-biisoquinoline | 1.52 g | C1(=NC=CC2=CC=CC=C12)C1=NC=CC2=CC=CC=C12 | C18H12N2
